US08492405B2
To a solution of methyl 5-methyl-4-[methyl(2-thienylsulfonyl)amino]thiophene-2-carboxylate (37.5 g) in tetrahydrofuran (200 mL) was slowly added lithium aluminum hydride (4.4 g) in small portions. The reaction mixture was stirred at room temperature for 1 hr, and water (4.4 mL), 15% aqueous sodium hydroxide solution (4.4 mL) and water (13.2 mL) were successively added to the reaction mixture under ice-cooling. The reaction mixture was stirred for 1 hr, and the insoluble material was filtered off. The filtrate was concentrated and crystallized from diethyl ether to give N-[5-(hydroxymethyl)-2-methyl-3-thienyl]-N-methylthiophene-2-sulfonamide (31.1 g, yield 91%) as yellow crystals.

reactant | methyl 5-methyl-4-[methyl(2-thienylsulfonyl)amino]thiophene-2-carboxylate | 37.5 g | CC1=C(C=C(S1)C(=O)OC)N(S(=O)(=O)C=1SC=CC1)C | C12H13NO4S3
reactant | lithium aluminum hydride | 4.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.4 mL | O | H2O
reactant | sodium hydroxide | 4.4 mL | [OH-].[Na+]
reactant | water | 13.2 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-[5-(hydroxymethyl)-2-methyl-3-thienyl]-N-methylthiophene-2-sulfonamide | 31.1 g, yield 91% | OCC1=CC(=C(S1)C)N(S(=O)(=O)C=1SC=CC1)C | C11H13NO3S3
